US05654307
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (247 mg, 1.29 mmol) and 3,4-dichloroaniline (1.50 g, 9.26 mmol) is stirred at 165° C. for 30 min. The resulting product is chromatographed over silica gel (7-8% MeOH/CH2Cl2) to give 7-amino-4-(3,4-dichloroanilino)pyrido[4,3-d]pyrimidine (252 mg, 64%) as a pale yellow solid. 1H NMR (DMSO) δ 9.97 (1H, brs), 9.34 (1H, s), 8.47 (1H, s), 8.29 (1H, brs), 7.86 (1H, brd, J=8.6 Hz), 7.62 (1H, d, J=8.8 Hz), 6.70 (2H, brs), 6.46 (1H, s).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.29 mmol, 247 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 3,4-dichloroaniline | 9.26 mmol, 1.50 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
product | 7-amino-4-(3,4-dichloroanilino)pyrido[4,3-d]pyrimidine | 252 mg, 64% | NC1=CC=2N=CN=C(C2C=N1)NC1=CC(=C(C=C1)Cl)Cl | C13H9Cl2N5
